US04593035
To 6-(N-methyl-N-acetylamino)-3,4-dihydrocarbostyril (8 g) is added 20% hydrochloric acid (100 ml), and the mixture is refluxed for 6 hours. After the reaction, the reaction mixture is distilled under reduced pressure, and to the residue is added 1N aqueous sodium hydroxide. The resulting precipitate is separated by filtration, washed with water, dried, and then recrystallized from ethyl acetate to give 6-methylamino-3,4-dihydrocarbostyril (5 g), as colorless prisms, m.p. 164°-167° C.

reactant | 6-(N-methyl-N-acetylamino)-3,4-dihydrocarbostyril | 8 g | CN(C(C)=O)C=1C=C2CCC(NC2=CC1)=O | C12H14N2O2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 6-methylamino-3,4-dihydrocarbostyril | 5 g | CNC=1C=C2CCC(NC2=CC1)=O | C10H12N2O
